US07132426B2
In a 2-neck round bottomed flask (250 mL), phenylether (60 mL) was put to reflux on a heating mantel. When it started boiling, p-toluenesulfonic acid (0.140 g) was added. 2-[(2-iodo-phenylamino)-methylene]-malonic acid diethyl ester was dissolved in phenylether (20 mL) and the mixture was poured into the boiling solvent. The mixture was refluxed for 3 h. The crude was transferred to a bequer and cooled to room temperature. Hexanes (600 mL) were added and a precipitate was observed. The mixture was stirred for 5 min, followed by filtration of the solid and thorough wash with hexanes to afford 8-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester as a grayish solid (2 g, 46%). 1H NMR (DMSO-d6, 400 MHz) δ 1.43 (t, 3H), 4.39 (q, 2H), 7.36 (t, 1H), 8.32 (d, 1H), 8.37 (d, 1H), 8.63 (s, 1H), 11.4 (s, 1H). Exact mass calculated for C12H10INO3 342.97, found 343.9 (MH+).

reactant | p-toluenesulfonic acid | 0.140 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-[(2-iodo-phenylamino)-methylene]-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)=CNC1=C(C=CC=C1)I)=O | C14H16INO4
solvent | phenylether | 20 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | phenylether | 60 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 8-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 2 g, 46% | C(C)OC(=O)C1=CNC2=C(C=CC=C2C1=O)I | C12H10INO3
